US05025007
3-Trimethylstannyl-1-hydroxymethyl-9-fluorenone
3-Bromo-1-hydroxymethyl-9-fluorenone (0.289 g) was dissolved in toluene (4 ml) and triphenylphosphine (3.8 mg, 0.02 eq) and tetrakis(triphenylphosphine)palladium (50 mg, 0.06 eq) were added. The solution was degassed under N2 and then treated with hexamethyldistannane (0.208 ml, 1.4 eq). The reaction mixture was heated at 110° under N2 for 1 hour. The reaction mixture was evaporated and the residue purified by preparative tlc to give the product (0.230 g).

reactant | 3-Bromo-1-hydroxymethyl-9-fluorenone | 0.289 g | BrC=1C=C(C=2C(C3=CC=CC=C3C2C1)=O)CO | C14H9BrO2
reactant | triphenylphosphine | 3.8 mg, 0.02 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexamethyldistannane | 0.208 ml, 1.4 eq | C[Sn]([Sn](C)(C)C)(C)C
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 50 mg, 0.06 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Trimethylstannyl-1-hydroxymethyl-9-fluorenone | 0.230 g | C[Sn](C=1C=C(C=2C(C3=CC=CC=C3C2C1)=O)CO)(C)C | InChI=1S/C14H9O2.3CH3.Sn/c15-8-9-4-3-7-11-10-5-1-2-6-12(10)14(16)13(9)11;;;;/h1-2,4-7,15H,8H2;3*1H3;
